Name:  ___            Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
abdominal pain, nausea, vomiting
 
Major Surgical or Invasive Procedure:
ERCP - ___
Percutaneous cholecystostomy tube placement - ___

 
History of Present Illness:
Patient is a ___ year old woman with history of HTN, COPD, GERD, 
depression who was transferred from OSH with several days of 
abdominal pain, nausea and vomiting and found to have evidence 
of cholecystitis on imaging.

She initially presented to ___ on ___ with nausea that 
began the night prior, associated with several episodes of 
vomiting on the following morning. She also developed RUQ pain. 
Denies fever, vomiting, chest pain, shortness of breath. 

In ED, VSS. Lab showed leukocytosis to 28, INR 1.5, lipase 343, 
AST 247, ALT 147. OSH CT showed distended gallbladder with a 
gallstone and evidence of pericholecystic inflammation, 
consistent with cholecystitis. Seen by surgery there, and 
recommended transfer to ___. Given cipro, flagyl, morphine 
and Zofran prior to transfer. ACS and ERCP made aware of 
patient. Of note, patient is DNR/DNI with MOLST form, which was 
reversed temporarily for the procedure.

She underwent ERCP today with sphincterotomy, with removal of 
sludge/CBD stones fragments. There was evidence of a small 
amount of contrast extravasation adjacent to the CBD concerning 
for a small tear. Thus a metal biliary stent was placed 
successfully as a means of closure.  Received dilaudid 0.25mg x1 
and zofran 4mg x1 prior to transfer.

On arrival to floor, noted to be tachycardic to 110s, satting 
95% on 3L. Denies pain or nausea. Reprots feeling very fatigued. 
Also reports mild abdominal tenderness diffusely.
 
Past Medical History:
COPD
HLD
HTN
Depression
History of generalized tonic clonic seizure
Glaucoma
Spondylosis w/o myelopathy or radiculopathy, lumbar region
Chronic constipation
Migraines
GERD

PSH:
Hysterectomy
Appendectomy
Cataract surgery
R TKR
 
Social History:
___
Family History:
No family history of gallbladder disease
 
Physical Exam:
ADMISSION 
Gen: NAD, appears very fatigued, pleasant
Eyes: EOMI, no scleral icterus
HENT: NCAT, trachea midline
CV: RRR, S1-S2, no m/r/g, no edema, 2+ ___ BLE
Lungs: CTA B, no w/r/c
GI: +BS, soft, mildly tender to palpation diffusely, worst at 
RUQ. Negative ___ sign
GU: No foley
MSK: ___ strength bilaterally, intact ROM
Neuro: Moving all extremities, no focal deficits
Skin: Multiple seb keratosis lesions. Bruising bilaterally on 
anterior shins

DISCHARGE
VS: 98.5 157/69 69 18 93%RA 
Gen - sitting up in bed, comfortable
Eyes - EOMI
ENT - OP clear, MMM
Heart - RRR no mrg
Lungs - CTA bilaterally
Abd - soft nontender, normoactive bowel sounds; improved from 
yesterday
Ext - no edema
Skin - no rashes
Vasc - 2+ DP/radial pulses
Neuro - AOx2 (full name, ___), moving all extremities
Psych - appropriate

 
Pertinent Results:
ADMISSION 
___ ___
Na 137, Cl 104, K 4.2, HCO3 23, Cl 104, BUN 22, Cr 0.7
INR 1.5
Lipase 343, ALb 3.1, AKLP 130, ALT 117
WBC 26.8, Hgb 13.5, Plt 284 
Lactate 1.7

___ 03:41AM   ___ PTT-29.9 ___
___ 02:25AM   GLUCOSE-92 UREA N-25* CREAT-0.9 SODIUM-139 
POTASSIUM-3.8 CHLORIDE-101 TOTAL CO2-21* ANION GAP-21*
___ 02:25AM   ALT(SGPT)-197* AST(SGOT)-247* ALK PHOS-164* 
TOT BILI-3.1*
___:25AM   LIPASE-138*
___ 02:25AM   ALBUMIN-3.2*
___ 02:25AM   WBC-28.0* RBC-4.37 HGB-13.3 HCT-41.4 MCV-95 
MCH-30.4 MCHC-32.1 RDW-14.1 RDWSD-48.9*
___ 02:25AM   NEUTS-81.0* LYMPHS-6.5* MONOS-10.7 EOS-0.0* 
BASOS-0.2 IM ___ AbsNeut-22.68* AbsLymp-1.83 AbsMono-3.00* 
AbsEos-0.00* AbsBaso-0.07

CT OSH:
Distended gallbladder with a gallstone and evidence of 
pericholecystic inflammation, consistent with cholecystitis

TTE ___
The left atrial volume index is mildly increased. The estimated 
right atrial pressure is ___ mmHg. Left ventricular wall 
thickness, cavity size, and global systolic function are normal 
(LVEF>55%). Right ventricular chamber size and free wall motion 
are normal. The aortic valve leaflets are moderately thickened. 
There is no aortic valve stenosis. No aortic regurgitation is 
seen. The mitral valve leaflets are mildly thickened. Mild (1+) 
mitral regurgitation is seen. There is mild pulmonary artery 
systolic hypertension.  

GB Drainage ___
Successful ultrasound-guided placement of ___ pigtail 
catheter into the gallbladder. Sample was sent for microbiology 
evaluation. 

ERCP ___
Cannulation of the biliary duct was successful and deep with a 
sphincterotome using a free-hand technique. Contrast medium was 
injected resulting in complete opacification. The procedure was 
not difficult 
The common bile duct, common hepatic duct, right and left 
hepatic ducts, and biliary radicles were filled with contrast 
and well visualized.  
There was evidence of mid CBD filling defects consistent with 
sludge/CBD stones.  
The course and caliber of the structures are otherwise normal 
with no evidence of extrinsic compression, no ductal 
abnormalities, and no additional filling defects  
A sphincterotomy was performed in the 12 o'clock position using 
a sphincterotome. 
The sphincterotome was exchanged for extraction balloon 
catheter. Balloon sweeps were performed and yielded sludge and 
stone fragments.  
Additional sweeps were performed until only bile was obtained.  

Post balloon sweeps there was evidence of a small amount of 
contrast extravasation adjacent to the CBD concerning for a 
small tear.  
A WallFlex fully covered RX 8mm x 60 mm biliary stent (REF: 
___, ___ was placed successfully as a means of 
closure.

 
Brief Hospital Course:
This is an ___ year old female with past medical history of 
dementia, hypertension, COPD, admitted ___ with 
choledocholithiasis with obstruction, as well as acute 
cholecystitis, acute cholangitis, and acute pancreatitis 
secondary to gallstones, status post ERCP and cholecystostomy 
tube placement on ___, on antibiotics with clinical 
improvement

# Sepsis / Choledocholithiasis with obstruction, acute 
cholecystitis, acute cholangitis - Patient initially presented 
with significant leukocytosis and LFT abnormalities with CT 
findings of cholecystitis. She was treated with antibiotics and 
decompressed from below with ERCP, sphincterotomy and balloon 
extraction.  Given concurrent acute cholecystitis she was seen 
by general surgery who recommended antibiotics and ___ drainage.  
___ evaluated and successfully placed ultrasound guided 
percutaneous cholecystostomy tube.  She improved 
symptomatically, and LFTs, WBC and fever curve normalization.  
Continued ciprofloxacin and flagyl with plan to complete course 
at rehab on ___. Scheduled for repeat ERCP for stent pull 
and re-evaluation.  Scheduled for surgery follow-up with Dr. 
___ discussion / assessment regarding cholecystectomy. 
   
# Acute Hypoxic Respiratory Failure - Developed acute hypoxemic 
respiratory failure requiring 3L NC. Likely related to acute 
pulmonary edema from iatrogenic fluid administration in setting 
of sepsis. Hypoxia resolved as clinical status improved. 
 
# Hypertension - Home regimen held initially due to sepsis but 
restarted back on home regimen (Captopril, Metoprolol) once 
stabilized.  
 
# History of Hx seizure disorder - Continued home LevETIRAcetam 
 
# Depression - continued home sertraline 
  
# HLD - Continued home simvastatin 

# GERD - Continued home PPI

# Glaucoma - continue latanoprost

Transitional Issues:
# NOK: Son ___ ___
- Is scheduled for follow-up with ERCP for stent pull and 
re-evaluation
- Is scheduled for follow-up with Dr. ___ evaluation / 
discussion re: cholecystectomy
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. butalbital-aspirin-caffeine 50-325-40 mg oral Q6H:PRN 
2. Captopril 25 mg PO TID 
3. Vitamin D ___ UNIT PO DAILY 
4. Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS 
5. LevETIRAcetam 1000 mg PO BID 
6. Sertraline 50 mg PO DAILY 
7. Simvastatin 20 mg PO QPM 
8. Lansoprazole Oral Disintegrating Tab 30 mg PO DAILY 
9. Metoprolol Tartrate 25 mg PO BID 

 
Discharge Medications:
1.  Acetaminophen 325-650 mg PO Q8H:PRN Pain - Mild  
2.  Ciprofloxacin HCl 500 mg PO Q12H 
Last day ___  
3.  MetroNIDAZOLE 500 mg PO Q8H 
last day ___  
4.  Captopril 25 mg PO TID  
5.  Lansoprazole Oral Disintegrating Tab 30 mg PO DAILY  
6.  Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS  
7.  LevETIRAcetam 1000 mg PO BID  
8.  Metoprolol Tartrate 25 mg PO BID  
9.  Sertraline 50 mg PO DAILY  
10.  Simvastatin 20 mg PO QPM  
11.  Vitamin D ___ UNIT PO 1X/WEEK (FR)  
 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
# Choledocholithiasis with obstruction, acute cholecystitis, 
acute cholangitis
# Hypertension
# Seizure disorder
# GERD
# Glaucoma
# Hypertension
# Depression
# Hyperlipidemia

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Ms. ___,

It has been a pleasure taking care of you at ___.  You were 
admitted with an infection of your gallbladder (cholecystitis) 
and an infection of your biliary ducts (cholangitis).  This was 
most likely caused by a blockage in the ducts draining your 
gallbladder (a gallstone).  You were seen by biliary specialists 
and surgeons.  You were treated with antibiotics and procedures 
to drain the infection and remove the blockage ("ERCP" and 
"cholecystostomy tube").  You improved and are now ready for 
discharge. 

The drain will treat your infection until you see the surgeon 
Dr. ___ in surgery clinic in 2 weeks. At that time he will 
evaluate whether you will need your gallbladder removed and the 
drain removed. 
 
Followup Instructions:
___